US06933265B2
a) Synthesis of 3-(4,4-Dimethyl-cyclohex-1-enyl)-propionic Acid Butyl Ester
The crude 8,8-dimethyl-1-oxa-spiro[4.5]decan-2-one (40.2 g, 0.22 mol) was introduced into a 250 ml three necked round bottom flask together with butanol (23 g) and concentrated H2SO4 (0.5 g). Temperature was risen to 140° C. and during 8 hours fresh butanol (42.9 g) was introduced, while collecting a mixture of butanol/water. The reaction mixture was cooled to room temperature and toluene (66 g) and water (66 g) were added. The organic phase was washed with NaHCO3 and water to yield after concentration 51.42 g of the desired compound. Flash distillation (68°–70° C., 0.2 hPa) led to 35.0 g of butylester (overall yield: 47%; GC purity: 96.0%).

reactant | 8,8-dimethyl-1-oxa-spiro[4.5]decan-2-one | 0.22 mol, 40.2 g | CC1(CCC2(CCC(O2)=O)CC1)C | C11H18O2
reactant | H2SO4 | 0.5 g | OS(=O)(=O)O | H2O4S
solvent | butanol | 42.9 g | C(CCC)O | C4H10O
solvent | butanol | 23 g | C(CCC)O | C4H10O
product | 3-(4,4-Dimethyl-cyclohex-1-enyl)-propionic Acid Butyl Ester | C(CCC)OC(CCC1=CCC(CC1)(C)C)=O | C15H26O2
